US06911468B2
(3) Ethyl (2R)-2-{4-[5-methyl-1-[4-(6-phenylhexyloxy)phenyl]-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate
To a solution of 4-[5-methyl-1-{2-[4-(6-phenylhexyloxy)phenyl]ethyl}-1H-pyrrol-2-yl]phenol (1.30 g, 3.05 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (890 mg, 4.58 mmol) and triphenylphosphine (1.20 g, 4.58 mmol) in toluene (2 ml) was added 1,1′-(azodicarbonyl)dipiperidine (1.15 g, 4.58 mmol) and the mixture was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate anhydride and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as an oily substance. 830 mg (yield: 45.5%)

reactant | 4-[5-methyl-1-{2-[4-(6-phenylhexyloxy)phenyl]ethyl}-1H-pyrrol-2-yl]phenol | 3.05 mmol, 1.30 g | CC1=CC=C(N1CCC1=CC=C(C=C1)OCCCCCCC1=CC=CC=C1)C1=CC=C(C=C1)O | C31H35NO2
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 4.58 mmol, 890 mg | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 4.58 mmol, 1.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.58 mmol, 1.15 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl (2R)-2-{4-[5-methyl-1-[4-(6-phenylhexyloxy)phenyl]-1H-pyrrol-2-yl]phenoxy}-3-phenylpropanoate | yield: 45.5% | CC1=CC=C(N1C1=CC=C(C=C1)OCCCCCCC1=CC=CC=C1)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C40H43NO4
